US04718936
Preparation of 6-(3-thienylmethylamino)-purine; version A
In the other version of the process, 1 mole equivalent of adenine is heated in a conventional manner (Phytochemistry 16, (1977) 1865) with from 1 to 10, preferably from 2 to 5, mole equivalents of thiophene-3-carbonyl chloride in the presence of a proton acceptor (e.g. pyridine), possibly in a solvent, such as dioxane, at as high as 200° C., and the mixture is worked up in a conventional manner and if necessary recrystallized, for example as described above.

reactant | adenine | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | thiophene-3-carbonyl chloride | S1C=C(C=C1)C(=O)Cl | C5H3ClOS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-(3-thienylmethylamino)-purine | S1C=C(C=C1)CNC1=C2NC=NC2=NC=N1 | C10H9N5S
